Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
hypotension ugib
 
Major Surgical or Invasive Procedure:
EGD, colonoscopy ___
 
History of Present Illness:
___ with ___'s disease (communicating cavernous ectasia, or 
congenital cystic dilatation of the intrahepatic biliary tree) 
cirrhosis, recurrent cholangitis and sepsis, recent PE with RV 
strain on anticoagulation now with hematemesis, fever, headache 
after fall.

Pt was in his usual state of health until ___ (the day prior 
to admission) morning, when he woke up around ___ to go to the 
bathroom. He reports that his feet got tangled in the covers and 
he tripped getting out of bed - falling, and hitting the left 
side of his head on the wooden radiator cover. He had immediate 
pain, but went to the bathroom and then went back to bed. Wife 
reports that he slept more than usual on the day on ___. 
___ evening, he felt feverish and reports taking his 
temperature, which was ___. Went to bed and slept normally. The 
morning of admission, he woke up and "felt weak." Carried a load 
of laundry downstairs and put laundry in the washing machine, at 
which point he became very nauseated. Dry heaved ___ times 
before vomiting a moderate amount of dark red blood with small 
clots. Shortly thereafter, he had a bowel movement, which he 
reports was black and soft. Several hours later, he had bright 
red blood per rectum. Called his PCP, who recommended that he 
come in to be evaluated.

Of note, the patient was recently admitted on ___ for 
confusion and melena - treated for hepatic encephalopathy; found 
to have Enterococcus faecalis bacteremia and acute cholangitis. 
Underwent MRCP without any specific changes in biliary ducts. 
EGD showed portal hypertensive gastropathy with bleeding on 
contact as well as small duodenal vascular ectasia that was 
treated with APC. Completed two week course of daptomycin for 
cholangitis and was started on Augmentin for suppressive 
therapy. Patient had previously been on suppressive antibiotics 
(alternating between levofloxacin and cefpodoxime) since ___ 
without infections. Given recurrent resistant bacterial 
infections and resistance profile of bacteria, prophylaxis 
regimen was changed to 1 month of cefpodoxime alternating with 1 
month of Augmentin at recent ID visit. He was started on 
Augmentin on ___ at which point right arm PICC was also removed. 


He was again admitted on ___ for hypoxia and found to have an 
acute submassive PE. At that time the patient recently had PICC 
removed on ___ after finishing IV daptomycin course for recent 
admission for enterococcus bacteremia. Doppler of right upper 
extremity demonstrating DVT, lower extremity dopplers negative. 
In this setting, PE presumed to be provoked. Discharged on 
rivaroxaban for anticipated 6 month course of anticoagulation. 
 
In the ED,    

Initial Vitals: 
T 97.5, HR 75, BP 90/48, RR1 8, O2 100% 
  
Exam:
Unremarkable (including neuro exam), aside from guiaic positive 
stool.

Labs:  
CBC: WBC 8.8 Hgb 9.8, Hct 29.8 Plt 58, 
LFT: ALT 59 ASt 140 AP 142 T bili 2.8 ALb 2.8
BMP Na 135 K 4.4 Cl 101 Bicarb 18 BUn 45 Cr 1.2 
Lactate 3.7

Imaging:  
*CXR: Low lung volumes with mild bibasilar atelectasis.
*Liver US:
1. Cirrhotic liver morphology with saccular intrahepatic biliary 
ductal dilatation in the right hepatic lobe consistent with 
patient's known ___'s syndrome. The portal veins are patent 
with redemonstration of reversed flow in the right portal vein.
2. Sludge within a distended gallbladder without evidence of 
acute
cholecystitis.
3. Redemonstration of marked splenomegaly and patent umbilical 
vein.
*CT Head w/out contrast:
No acute intracranial abnormality.  No acute fracture.

Consults:  
Hepatology: no need for urgent scope, admit for monitoring and 
management of GI bleed

Interventions: 
-Patient had 2 PIV placed, he recieved 1 U PRBC and 1 L fluid
-Patient recieved 1 gram CTX IV, octreotide IV and pantoprazole 
40mg IV

VS Prior to Transfer:  HR 66, BP 88/51, RR 20, SpO2 97% 2L NC 

On arrival to the MICU, he reports feeling "okay." Wants to know 
when he'll be able to eat. He denies lightheadedness, dizziness, 
shortness of breath, chest pain, abd pain, nausea. Had one 
episode of BRBPR in ED, but none since and no further vomiting.

 
Past Medical History:
-___ Syndrome with recurrent cholangitis and bacteremia, most 

recent from highly resistant E. coli treated with tigecycline 
(finished late ___  
-Cirrhosis    
-Depression  
-Osteopenia   
-Seasonal allergies  
-Inguinal hernia repair in ___
 
Social History:
___
Family History:
Mother has heart disease. Father died at age ___ from cancer and
there is no other liver disease in his family that is known.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
========================  
VS: BP 96/60, HR 73, RR 26, SpO2 95%/RA
GEN:  tired-appearing man, sitting up in bed, NAD
HEENT:  mildly icteric sclera, PERRL. OP clear, dry MM.
NECK:  supple, no LAD.
CV:  RRR, S1+S2, no M/R/G
RESP:  CTAB, no W/R/C
GI:  non-distended, soft, non-tender
MSK:  WWP, no edema
SKIN:  bronzed skin, no skin lesions or breakdown
NEURO:  alert, oriented. No asterixis.
PSYCH:  pleasant, euthymic

DISCHARGE PHYSICAL EXAM:
=======================
VITALS: 24 HR Data (last updated ___ @ 1212)
    Temp: 97.9 (Tm 98.2), BP: 115/70 (99-122/61-75), HR: 80
(78-90), RR: 18, O2 sat: 95% (92-96), O2 delivery: Ra, Wt: 
218.69
lb/99.2 kg  
GENERAL: Alert and interactive, in no acute distress.
HEENT: Sclera anicteric and without injection. Moist mucous
membranes
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
 
Pertinent Results:
ADMISSION LABS:
====================
___ 02:56PM   WBC-8.8 RBC-3.13* HGB-9.8* HCT-29.8* MCV-95 
MCH-31.3 MCHC-32.9 RDW-19.2* RDWSD-67.0*
___ 02:56PM   ___ PTT-39.3* ___
___ 02:56PM   ALT(SGPT)-59* AST(SGOT)-140* ALK PHOS-142* 
TOT BILI-2.8*
___ 02:56PM   LIPASE-17
___ 02:56PM   ALBUMIN-2.8* CALCIUM-8.4 PHOSPHATE-2.1* 
MAGNESIUM-1.9
___ 02:56PM   GLUCOSE-128* UREA N-45* CREAT-1.2 SODIUM-135 
POTASSIUM-4.4 CHLORIDE-101 TOTAL CO2-18* ANION GAP-16
___ 03:10PM   LACTATE-3.7*

RELEVANT IMAGING:
====================
___ EGD: portal hypertensive gastropathy, 3 grade I varices
___ ___: internal hemorrhoids without stigmata of bleeding 
___ CT head w/o con: no acute intracranial process

___ TTE:
CONCLUSION:
The left atrial volume index is SEVERELY increased. The right 
atrium is mildly enlarged. There is no evidence for an atrial 
septal defect by 2D/color Doppler. The right atrial pressure 
could not be estimated. There is mild symmetric left ventricular 
hypertrophy with a normal cavity size. There is normal regional 
and global left ventricular systolic function. Quantitative 
biplane left ventricular ejection fraction is 75 % (normal
54-73%). There is no resting left ventricular outflow tract 
gradient. Tissue Doppler suggests a normal left ventricular 
filling pressure (PCWP less than 12mmHg). Mildly dilated right 
ventricular cavity with normal free
wall motion. The aortic sinus diameter is normal for gender with 
normal ascending aorta diameter for gender. The aortic arch 
diameter is normal. The aortic valve leaflets (3) are mildly 
thickened. There is no aortic valve stenosis. There is trace 
aortic regurgitation. The mitral valve leaflets are mildly 
thickened with no mitral valve prolapse. There is trivial mitral 
regurgitation. The pulmonic valve leaflets are normal. The 
tricuspid valve leaflets appear structurally normal. There is 
mild [1+] tricuspid regurgitation. There is moderate to severe 
pulmonary artery systolic hypertension. There is no pericardial 
effusion. Compared with the prior TTE (images reviewed) of 
___ , right ventricle is now dilated. Estimated pulmonary 
artery pressures are similar. Trivial aortic regurgitation is 
present.

DISCHARGE LABS:
=================
___ 06:34AM BLOOD WBC-2.5* RBC-2.99* Hgb-9.3* Hct-29.4* 
MCV-98 MCH-31.1 MCHC-31.6* RDW-19.9* RDWSD-71.3* Plt Ct-50*
___ 06:34AM BLOOD ___ PTT-34.1 ___
___:34AM BLOOD Glucose-90 UreaN-15 Creat-0.9 Na-143 
K-4.3 Cl-109* HCO3-20* AnGap-14
___ 06:34AM BLOOD Calcium-8.4 Phos-2.9 Mg-1.6

MICRO:
======
___ 6:08 am URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

___ 3:05 pm BLOOD CULTURE

   Blood Culture, Routine (Pending):    No growth to date. 
 
Brief Hospital Course:
PATIENT SUMMARY:
====================
___ with ___'s disease (communicating cavernous ectasia, 
orcongenital cystic dilatation of the intrahepatic biliary tree) 
cirrhosis, recurrent cholangitis and sepsis, recent PE with RV 
strain on rivaroxaban, who presented with hematemesis, fever, 
and headache after fall. He remained hemodynamically stable 
while in house, with stable hemoglobin levels. His 
anticoagulation was switched to Lovenox (from rivaroxaban).

TRANSITIONAL ISSUES:
====================
#GI Bleed
#Acute Blood Loss Anemia:
[] H/H check on ___: no active bleeding identified on 
___ this admission, f/u H/H after starting lovenox for PE 
treatment on ___.

#Cirrhosis
[] Electrolyte check on ___: Lasix restarted at 
discharge, f/u K Mg Cr.
[] F/u BP: home nadolol held in setting of GI bleed and 
hypotension, restarted nadolol for esophageal varices at 
discharge. BP 110s-120s/70s on day of discharge.

#PE:
[] AC switched to Lovenox, to be continued through ___, 
then discontinued.
[] Consider TTE after completion of anticoagulation course, as 
RV was newly dilated on TTE ___. 

#CODE STATUS: DNR/DNI - if there was a treatable/fixable problem 
that would require temporary intubation, patient would be okay 
with intubation in that setting.
#EMERGENCY CONTACT: Wife, ___, ___

ACTIVE/ACUTE ISSUES:
====================
# GI bleed
# GAVE
# Hypotension
Patient presented with hematemesis x1, melena x1, BRBPR x2 - 
consistent with either very brisk UGIB or both UGIB and LGIB. 
Initially intermittently hypotensive in the ICU, blood pressure 
responsive to IV albumin and blood transfusions. Suspect that 
his hypotension was secondary to initial blood loss in 
combination with vasoplegia from underlying liver disease. 
Hemoglobin remained stable throughout admission and EGD and 
colonoscopy showed no identifiable source of bleeding, only 
showed his baseline GAVE. No other acute findings. Source of the 
GI bleed could be a small bowel source/AVMs vs. GAVE associated 
oozing. He was treated with IV pantoprazole 40mg BID, octreotide 
drip x72 hours, and ceftriaxone prophylaxis in setting of acute 
bleed (___). Transitioned back to home PPI at discharge.

# ___
Baseline creatinine 0.9-1.2. Creatinine initially at baseline, 
but increased to 1.8 in setting of hypotension and bleed. Most 
likely pre-renal injury, resolved after volume resuscitation. 

# Coagulopathy
Has some degree of coagulopathy at baseline in setting of 
cirrhosis, but presented with INR 4.9. Unknown etiology of this 
elevation, could have been mild elevation from rivaroxaban in 
combination with recent daptomycin and Augmentin causing some 
vitamin K malabsorption. Received IV vitamin K 10mg in the ED 
with normalization of INR.

# PE
# Catheter associated UE DVT
Patient diagnosed with upper extremity DVT and submassive PE in 
___. Planned for six months of anticoagulation for provoked 
thrombosis (through mid ___. Had been on rivaroxaban BID 
(loading dose) as an outpatient prior to admission. Rivaroxaban 
held during this admission in setting of GI bleed. After 
negative EGD/colonoscopy, patient was started on heparin gtt 
with stable Hgb. Vascular medicine was consulted for assistance 
with ongoing management of AC, recommended avoiding DOACs. He 
was transitioned from heparin gtt to lovenox BID (more rapid
reversal than warfarin in event of recurrent bleeding) on ___. 
___ TTE demonstrated dilated R ventricle, similar pulmonary 
artery pressures to most recent TTE on ___, no evidence of R 
heart failure.

# Transaminitis
Mild transaminitis, likely due to hypotension. Improving at time 
of discharge.

# Fall
Sounds mechanical in nature, per patient. No bleeding prior to 
fall, does not sound syncopal. CT head with no evidence of 
intracranial pathology or skull trauma. ___ was consulted, felt 
that there were no acute ___ needs.

# ___ syndrome 
# Cirrhosis
# Thrombocytopenia
Childs class B cirrhosis; MELD-Na 31 on admission (largely 
driven by INR). History of hepatic encephalopathy, although none 
this admission. ___ EGD with one cord grade I varices, 
gastropathy, duodenal vascular ectasia status post APC, history 
of esophageal banding. EGD this admission with 3 cords of grade 
I varices in distal esophagus, nonbleeding, and portal 
hypertensive gastropathy. No tappable ascites pocket in the ED, 
no history of SBP. Continued home lactulose. Held nadolol and 
furosemide given recent GIB, restarted at time of discharge.

CHRONIC ISSUES:
====================
# History of recurrent cholangitis
Recurrent episodes of cholangitis due to biliary ductal dilation 
from ___'s disease. US on admission without evidence of 
cholangitis. History of CRE. Continued prophylactic Augmentin 
850mg BID, ursodiol 600 mg BID.

# Depression: continued citalopram 20mg daily 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. aMILoride 10 mg PO DAILY 
2. Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
3. Citalopram 20 mg PO DAILY 
4. Furosemide 40 mg PO DAILY 
5. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
6. Loratadine 10 mg PO DAILY 
7. Nadolol 20 mg PO DAILY 
8. Ursodiol 600 mg PO BID 
9. rifAXIMin 550 mg PO BID 
10. Albuterol Inhaler 2 PUFF IH Q6H:PRN Shortness of breath 
11. calcium carbonate-vitamin D3 600 mg(1,500mg) -400 unit oral 
DAILY 
12. EPINEPHrine (EpiPEN) 0.3 mg IM ONCE MR1 allergic reaction 
13. Lactulose 30 mL PO Q8H:PRN As needed to have ___ Bowel 
Movements per day 
14. Magnesium Oxide 400 mg PO DAILY 
15. Pantoprazole 40 mg PO Q24H 
16. Sildenafil 50 mg PO DAILY:PRN sexual activity 
17. Rivaroxaban 15 mg PO BID 

 
Discharge Medications:
1.  Acyclovir 400 mg PO Q8H Duration: 5 Days 
RX *acyclovir 400 mg 1 tablet(s) by mouth three times a day Disp 
#*9 Tablet Refills:*0 
2.  Enoxaparin Sodium 100 mg SC Q12H 
RX *enoxaparin 100 mg/mL 1 ml SC every twelve (12) hours Disp 
#*60 Syringe Refills:*0 
3.  Albuterol Inhaler 2 PUFF IH Q6H:PRN Shortness of breath  
4.  aMILoride 10 mg PO DAILY  
5.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H  
6.  calcium carbonate-vitamin D3 600 mg(1,500mg) -400 unit oral 
DAILY  
7.  Citalopram 20 mg PO DAILY  
8.  EPINEPHrine (EpiPEN) 0.3 mg IM ONCE MR1 allergic reaction 
Duration: 1 Dose  
9.  Furosemide 40 mg PO DAILY  
10.  Lactulose 30 mL PO Q8H:PRN As needed to have ___ Bowel 
Movements per day  
11.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
12.  Loratadine 10 mg PO DAILY  
13.  Magnesium Oxide 400 mg PO DAILY  
14.  Nadolol 20 mg PO DAILY  
15.  Pantoprazole 40 mg PO Q24H  
16.  Sildenafil 50 mg PO DAILY:PRN sexual activity  
17.  Ursodiol 600 mg PO BID  
18.Outpatient Lab Work
ICD-___
Please check CBC and chem ___
Fax results to Dr. ___ at ___
and Dr. ___ at ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: 
GI Bleed

Secondary: 
___ disease 
Childs class B cirrhosis
Pulmonary embolism
Catheter-associated upper extremity DVT
Coagulopathy
Thrombocytopenia
___
Fall

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure being a part of your care at ___!

WHY WERE YOU ADMITTED TO THE HOSPITAL? 
- You were admitted to the hospital because you had a fall at 
home, fever, headache, and had blood in vomit and stool.

WHAT HAPPENED WHEN YOU WERE IN THE HOSPITAL?
- You were found to have very low blood pressure. You were 
admitted to the ICU and given medications and blood transfusions 
to support your blood pressure and replace blood loss.
- You were given medication to stop the bleeding.
- You had an EGD and colonoscopy which did not identify any 
active sites of bleeding.
- Your blood counts were monitored and remained stable.
- Your home medication rivaroxaban was discontinued and you were 
started on enoxaparin (lovenox) to treat your pulmonary embolism 
and deep vein thrombosis (blood clots).

WHAT SHOULD YOU DO WHEN YOU LEAVE?
- You should get blood work checked on ___.
- You should follow up with your PCP, ___, and Infectious 
Disease doctors in outpatient ___ as listed below.
- Please seek medical attention immediately if you feel 
dizzy/lightheaded, notice bloody or black stools, or have any 
other symptoms that concern you.

We wish you the best!

Sincerely, 
Your ___ Team
 
Followup Instructions:
___